US04088652
Preparation of o-(1-Phenyl-3-azabicyclo[3.1.0]hex-3-ylcarbonyl)benzoic acid
A mixture of 7.95 g. of 1-phenyl-3-azabicyclo-[3.1.0]hexane and 7.4 g. of phthalic anhydride in 300 ml. of toluene is refluxed for 1/2 hour and then allowed to stand overnight. The solution is extracted three times with 1N sodium hydroxide and made extremely acid with 1N hydrochloric acid. The solid which separates is extracted with chloroform, dried over magnesium sulfate, filtered and filtrate evaporated to a glass residue. This glass is triturated in hexane and filtered giving the product as a light pink solid, IR 5.85, 6.10μ.

reactant | 1-phenyl-3-azabicyclo-[3.1.0]hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | o-(1-Phenyl-3-azabicyclo[3.1.0]hex-3-ylcarbonyl)benzoic acid | C1(=CC=CC=C1)C12CN(CC2C1)C(=O)C1=C(C(=O)O)C=CC=C1 | C19H17NO3
